US07893055B2
3-(2-Chloroethoxy)-N-Hydroxy-2,2-dimethylpropanamidine:
3-(2-Chloroethoxy)-2,2-dimethylpropanenitrile (6.1 g, 37.7 mmol) was placed together with 50% aqueous hydroxylamine (3.1 g, 37.7 mmol) in 60 mL EtOH and warmed at 75-80 C with stirring for 18 h. The solution was concentrated and then concentrated further with EtOH and vacuum dried to leave (9.4 g, ˜80% pure) of the title compound as a gum. 1H NMR (300 MHz, CDCl3) δ: 1.17 (s, 6H), 3.40 (s, 2H), 3.58-3.73 (m, 4H), 5.16 (s, 2H). LC/MS (M+H): 195.

reactant | 3-(2-Chloroethoxy)-2,2-dimethylpropanenitrile | 37.7 mmol, 6.1 g | ClCCOCC(C#N)(C)C | C7H12ClNO
reactant | hydroxylamine | 37.7 mmol, 3.1 g | NO | H3NO
solvent | EtOH | 60 mL | CCO | C2H6O
product | 3-(2-Chloroethoxy)-N-Hydroxy-2,2-dimethylpropanamidine | ClCCOCC(C(=N)NO)(C)C | C7H15ClN2O2
